US06638945B1
3-amino-4-chloro-6,7-dimethoxyquinoline (3.3 g) was dissolved in tetrahydrofuran (70 ml) with stirring and then cooled in an ice/water bath to below 10° C. 48% aqueous fluoboric acid (7.3 ml) was then added and the mixture stirred for 5 minutes. A solution of sodium nitrite (1.05 g) in water (2 ml) was added keeping the temperature below 10° C. The reaction mixture was then stirred for 30 minutes with cooling. The resulting yellow solid was filtered off, washed with fresh tetrahydrofuran. Carefully vac dried. To give 4-chloro-6,7-dimethoxyquinoline-3-diazonium tetrafluoroborate (4.15 g, 89%).

reactant | 3-amino-4-chloro-6,7-dimethoxyquinoline | 3.3 g | NC=1C=NC2=CC(=C(C=C2C1Cl)OC)OC | C11H11ClN2O2
reactant | fluoboric acid | 7.3 ml | [H+].[B-](F)(F)(F)F
reactant | sodium nitrite | 1.05 g | N(=O)[O-].[Na+]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 4-chloro-6,7-dimethoxyquinoline-3-diazonium tetrafluoroborate | 4.15 g, 89% | F[B-](F)(F)F.ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)[N+]#N | InChI=1S/C11H9ClN3O2.BF4/c1-16-9-3-6-7(4-10(9)17-2)14-5-8(15-13)11(6)12;2-1(3,4)5/h3-5H,1-2H3;/q+1;-1
